US07183276B2
To a solution of ethyl malonate (17.5 g) in N,N-dimethylformamide (50 mL) was added sodium hydride (4.38 g) and the mixture was stirred at 0° C. for 30 min, after which a solution of 5-(bromomethyl)-4-(4-chlorophenyl)-2-phenylthiazole (8.0 g) in N,N-dimethylformamide (200 mL) was added at 0° C. The mixture was stirred at 0° C. for 2 hrs. and poured into dilute hydrochloric acid. The mixture was extracted with ethyl acetate and the organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give a yellow oil. This oil was dissolved in ethanol (140 mL) and 10% aqueous sodium hydroxide solution (140 mL) was added. The mixture was stirred at 60° C. for 2 hrs. and the reaction mixture was poured into water. The mixture was washed with diethyl ether and the aqueous layer was acidified with dilute hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give a yellow powder. This powder was dissolved in pyridine (140 mL) and the mixture was stirred at 100° C. for 2 hrs. The reaction mixture was concentrated and diluted with dilute hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give 3-[4-(4-chlorophenyl)-2-phenyl-5-thiazolyl]propionic acid (5.71 g, 75%) as a yellow powder. Recrystallization from ethyl acetate-hexane gave colorless prism crystals, melting point: 142–143° C.

reactant | ethyl malonate | 17.5 g | C(CC(=O)[O-])(=O)OCC
reactant | sodium hydride | 4.38 g | [H-].[Na+]
reactant | 5-(bromomethyl)-4-(4-chlorophenyl)-2-phenylthiazole | 8.0 g | BrCC1=C(N=C(S1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C16H11BrClNS
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 140 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 140 mL | C(C)O | C2H6O
solvent | pyridine | 140 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-[4-(4-chlorophenyl)-2-phenyl-5-thiazolyl]propionic acid | 5.71 g, 75% | ClC1=CC=C(C=C1)C=1N=C(SC1CCC(=O)O)C1=CC=CC=C1 | C18H14ClNO2S
